US07923450B2
a) 2-tert-Butyl-6-[1-dimethylamino-meth-(E)-ylidene]-cyclohexanone
2-tert-Butylcyclohexanone (93 mg, 0.60 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (105 mg) as a yellow oil which was used directly in the next step. MS ISP (m/e): 210.2 (100) [(M+H)+].

reactant | 2-tert-Butylcyclohexanone | 0.60 mmol, 93 mg | C(C)(C)(C)C1C(CCCC1)=O | C10H18O
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 2-tert-Butyl-6-[1-dimethylamino-meth-(E)-ylidene]-cyclohexanone | 105 mg | C(C)(C)(C)C1C(/C(/CCC1)=C/N(C)C)=O | C13H23NO
